US07060844B2
A solution of 3-(3-isocyanatomethyl-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (75 mg, 0.24 mmol) and 2-hydroxyethylamine (44.4 μl, 0.74 mmol) in THF (2.0 ml) was stirred at room temperature for 25 minutes and then heated at 60° C. for 5 minutes. The reaction was partitioned between EtOAc and water. The organic layer was washed with water, brine, dried with anhydrous Na2SO4, and rotary evaporated to result in a brown-yellow solid. The brown-yellow solid was chromatographed through silica gel column (CHCl3 to 5% MeOH/CHCl3 gradient) to give 1-(2-hydroxy-ethyl)-3-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-ylmethyl]-urea as a yellow solid (18 mg, 20%).

reactant | 3-(3-isocyanatomethyl-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.24 mmol, 75 mg | N(=C=O)CC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C18H12N2O3
reactant | 2-hydroxyethylamine | 0.74 mmol, 44.4 μl | OCCN | C2H7NO
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | 1-(2-hydroxy-ethyl)-3-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-ylmethyl]-urea | 18 mg, 20% | OCCNC(=O)NCC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C20H19N3O4
